US04054659
0.2 g of 5.7-dibenzyloxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline is dissolved in 250 ml of ethanol, and 0.05 g ot 10% palladium-carbon is added thereto. The mixture is shaken at 25° C in a hydrogen atmosphere. After the hydrogen uptake is completed, the catalyst is removed by filtration. The filtrate is evaporated to remove solvent. 0.125 g of 5,7-dihydroxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline is thereby obtained as a crude product. Yield: 95% M.p. 270° - 275° C (decomp.) (recrystallized from ethanol).

reactant | 5.7-dibenzyloxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline | 0.2 g | C(C1=CC=CC=C1)OC1=C2C=CN=C(C2=CC(=C1)OCC1=CC=CC=C1)CC1=CC(=C(C(=C1)OC)OC)OC | C33H31NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 5,7-dihydroxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline | 0.125 g, Yield: 95% | OC1=C2C=CN=C(C2=CC(=C1)O)CC1=CC(=C(C(=C1)OC)OC)OC | C19H19NO5
